US07745641B2
In a similar manner to Step 4 of Example 16, 4-chloro-1-hydroxy-6-methyl-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one (70.0 mg, 0.220 mmol) was dissolved in nitromethane (3.5 mL), and the solution was treated with trifluoroacetic acid (0.509 mL, 6.60 mmol) and triethylsilane (0.141 mL, 0.880 mmol), followed by purification by slurry using isopropylether/hexane to obtain 4-chloro-6-methyl-1,2-dihydropyrrolo[3,4-c]pyridine-3-one (25.5 mg, yield 63%).

reactant | 4-chloro-1-hydroxy-6-methyl-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one | 0.220 mmol, 70.0 mg | ClC1=NC(=CC2=C1C(N(C2O)C(C)(C2=CC=CC=C2)C)=O)C | C17H17ClN2O2
reactant | trifluoroacetic acid | 6.60 mmol, 0.509 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.880 mmol, 0.141 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | nitromethane | 3.5 mL | [N+](=O)([O-])C | CH3NO2
product | 4-chloro-6-methyl-1,2-dihydropyrrolo[3,4-c]pyridine-3-one | 25.5 mg, yield 63% | ClC1=NC(=CC2=C1C(NC2)=O)C | C8H7ClN2O
